US04844732
5-bromo-1-butyl-6-ethyl-N-(2,6-diethylphenyl)-1,4-dihydro-2-methyl-4-oxo-3-pyridinecarboxamide
To a mixture of 700 mg (1.90 mmol) of 1-butyl-6-ethyl-N-(2,6-diethylphenyl)-1,4-dihydro-2-methyl-4-oxo-3-pyridinecarboxamide, 14 ml of methylene chloride and 1.2 g (7.40 mmol) of sodium carbonate was added a solution of 303 mg (1.90 mmol) of bromine in 5 ml of methylene chloride under vigorous stirring. After the completion of addition the mixture was stirred for 6 hours. The insoluble product in methylene chloride was filtered off and the filtrate was concentrated in vacuo to give a crystalline residue. The residue was recrystallized from benzene and cyclohexane to afford 615 mg of the title compound having mp. 132.5°-133.5° C.

reactant | 1-butyl-6-ethyl-N-(2,6-diethylphenyl)-1,4-dihydro-2-methyl-4-oxo-3-pyridinecarboxamide | 1.90 mmol, 700 mg | C(CCC)N1C(=C(C(C=C1CC)=O)C(=O)NC1=C(C=CC=C1CC)CC)C | C23H32N2O2
reactant | sodium carbonate | 7.40 mmol, 1.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromine | 1.90 mmol, 303 mg | BrBr | Br2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-1-butyl-6-ethyl-N-(2,6-diethylphenyl)-1,4-dihydro-2-methyl-4-oxo-3-pyridinecarboxamide | 615 mg | BrC=1C(C(=C(N(C1CC)CCCC)C)C(=O)NC1=C(C=CC=C1CC)CC)=O | C23H31BrN2O2
